Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 Persistent hypotension and s/p cardiac arrest

 
Major Surgical or Invasive Procedure:
___ ERCP
CVVH
Mechanical ventillation

 
History of Present Illness:
___ history w/ PMH of HTN and autism who presents as a transfer 
from OSH s/p cardiac arrest. He reportedly had 2 days of 
lethargy and malaise and diarrhea at home. He had an episode of 
syncope at home when walking down the stairs (SOB prior per 
mother). When EMS arrived, pt was agitated but awake but became 
unresponsive and was pulseless on arrival to the ___ ED. 
For PEA arrest, he received CPR, atropine, and epi with ROSC. He 
then became hypotensive w/asystole received Ca, bicarb, epi, and 
CPR. Also had episode of VTACH s/p shock in OSH. OSH labs were 
notable for eo's of 5.8 on diff, lactate 9.4, INR 1.75, Cr 8.2, 
and FSBG of 58. He had a right femoral CVL placed, received 3L 
of fluid, and was uptitrated to 3 pressors of levo/epi/neo. He 
received no abx, 1 amp of glucose, and was transferred to ___ 
for further management.

He arrived to ___ on max does of norepi, epi and phenylephrine 
gtts. He was unresponsive but s/p NMB (rocuronium at 11:30 AM) 
en route via Medflight. His labs were notable for WBC 24.0 (12% 
bands), H/H 11.9/36.0, PLT 31, INR 1.3, BUN/Cr 83/8.3, ALT 114, 
AST 143, CK 5097, AP 337, TB 5.4, Lipase 61, CK MB 20, Uric acid 
17.7, Phos 8.3, calcium 7.4, Cortisol 66.9, negative UA, 
negative serum and urine tox screens. His initial blood gas was 
7.00/___/72. Lactate was 4.0 and free Ca was 1.01. Blood and 
urine cultures were sent. Imaging was notable for CXR with 
pulmonary edema, CT head with no acute bleed but subtle 
subcortical white matter hypodensity in the right frontal lobe, 
CT c-spine without acute fracture, and CTA chest and abdomen 
with no PE, type I choledochal cyst, 3.5 cm heterogeneous, 
potentially enhancing left renal lesion concerning for neoplasm, 
and ill-defined segment VII with hypodense liver lesion. A 
bedside echo showed a hyperdynamic heart. He received 150 
bicarb, vanc/zosyn, tamiflu, azithromycin, and was loaded with 
amiodarone for persistent tachycardia and AF. He was 
temperature-controlled for normothermia and reached 37oc by 3:40 
___. He was admitted to the MICU for further management.

On admission to the MICU, the patient's VS were: . He was noted 
to be in AF with RVR. In speaking with the patient's mother, the 
patient only takes medications given to him by her. His only 
regular medications are atenolol and protonix. He takes 
indomethacin and colchicine as needed, and last dose was 5 days 
ago. Because of not feeling well over the past few days, his 
mother reported that the patient took 2 capsules of keflex 
yesterday, but was not taking a prescribed antibiotic course.
 

 
Past Medical History:
Autism  
HTN
?Gout  

 
Social History:
___
Family History:
 No known history of sudden cardiac death.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals- T: 98.1, BP: 112/65, P: 134, O2: 94% on CMV on Vt 550, 
RR 24, 8 PEEP.
GENERAL: Intubated, not sedated
HEENT: Icteric sclera, dry MMM, oropharynx clear  
NECK: supple, JVP elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: Not alert, not oriented, opens eyes to pain and voice, 
but does not withdraw to pain. Intact pupillary reflex, negative 
corneals, negative cough/gag. No spontaneous movements of limbs.

Discharge physical:
Vitals: Tm 101.3; Tc 99.7;  HR 121;  BP 99/59;  RR 39;  SaO2 97 
on 2L
General: Somulent male lying comfortably in bed. Tachypneic but 
nonlabored breathing
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, left IJ line in place
Lungs: Clear to auscultation anteriorly and laterally
CV: Tachycardic but regular rate, normal S1 + S2, no murmurs, 
rubs, gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Skin: No rashes or lesions
Neuro: Somulent, but arousable. Responds to some yes/no 
questions. Follows simple commands

 
Pertinent Results:
INITIAL LABS: 
___ 12:40PM   WBC-24.0* RBC-4.21* HGB-11.9* HCT-36.0* 
MCV-86 MCH-28.3 MCHC-33.1 RDW-16.4*
___ 12:40PM   NEUTS-67 BANDS-12* LYMPHS-9* MONOS-5 EOS-0 
BASOS-0 ___ METAS-4* MYELOS-3* NUC RBCS-1*
___ 12:40PM   ___ PTT-35.9 ___
___ 12:40PM   ___
___ 12:40PM   GLUCOSE-174* LACTATE-4.0* NA+-137 K+-4.1 
CL--108
___ 12:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:40PM   CORTISOL-66.9*
___ 12:40PM   CALCIUM-7.4* PHOSPHATE-8.3* MAGNESIUM-2.2 
URIC ACID-17.7*
___ 12:40PM   LIPASE-61*
___ 12:40PM   CK-MB-20* MB INDX-0.4
___ 01:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:41PM   HYPOCHROM-1+ ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-1+ POLYCHROM-NORMAL
___ 05:41PM   HAPTOGLOB-279*
___ 05:41PM   LD(LDH)-486* DIR BILI-4.8*
___ 05:41PM   GLUCOSE-425* UREA N-87* CREAT-7.9* 
SODIUM-132* POTASSIUM-4.3 CHLORIDE-96 TOTAL CO2-14* ANION 
GAP-26*

STUDIES
==========================================================
___ EEG IMPRESSION: This is an abnormal continuous ICU 
monitoring study because of a discontinuous background 
throughout the recording, characterized by ___ Hz theta 
frequency activity with admixed delta activity and occasional 
suppressions, consistent with a moderate to several 
encephalopathy. Background reactivity is present as seen during 
bedside examination when a more continuous and higher voltage 
theta frequency activity is observed. There are no definite 
epileptiform discharges or electrographic seizures. Note is made 
of an irregular cardiac rhythm throughout the recording with an 
average heart rate of 70 to 130 bpm on a single channel EKG. 

___ ECG Baseline artifact. Sinus tachycardia. Non-diagnostic Q 
waves in leads I and aVL. Borderline intraventricular conduction 
delay of the left bundle-branch block type. ST-T wave 
abnormalities. No previous tracing available for comparison. 
Clinical correlation is suggested. TRACING ___ CXR IMPRESSION: 1. Widened mediastinum may reflect low lung 
volumes and supine positioning, however mediastinal great vessel 
injury cannot be excluded. If concern exists, recommend chest 
CTA. 2. Pulmonary vascular congestion and probable mild 
pulmonary edema. 3. Bibasilar atelectasis. 4. ET tube with tip 6 
cm above carina. Enteric tube with tip projecting over stomach 
fundus. 

___ CT SPINE 1. No acute fracture or malalignment. 2. 
Heterogeneously enlarged left thyroid gland with punctate 
calcification suggestive of a goiter. Consider thyroid 
ultrasound if the patient has not had one previously if the 
patient's condition stabilizes. 3. Mild pulmonary edema. 

___ CT HEAD W/O CONTRAST IMPRESSION: 1. No acute intracranial 
hemorrhage or mass effect. 2. Subtle subcortical white matter 
hypodensity in the right frontal lobe which is nonspecific, 
potentially related to chronic small vessel infarction, but can 
also be seen with vasculitis, demyelination, or infection. This 
can be further assessed with MRI. 

___ CTA CHEST AND ABDOMEN IMPRESSION: 1. No evidence of 
pulmonary embolism to the segmental level. 2. Fusiform dilation 
to 53 mm of the extrahepatic common hepatic and common bile duct 
as well as the cystic duct, compatible with type I choledochal 
cyst. Hyperdense anti-dependent material within the gallbladder 
lumen may represent sludge, however underlying mass lesion is 
also of concern. Recommend non-urgent MRCP for further 
evaluation of biliary system and gallbladder when clinically 
appropriate. 3. A 3.5 cm heterogeneous, potentially enhancing 
left renal lesion, concerning for neoplasm. Patent ipsilateral 
renal vein. This could be further evaluated at the time of 
followup MRI/MRCP. 4. Ill-defined segment VII hypodense liver 
lesion. Attention on followup imaging. 5. Possible non-displaced 
sternal fracture. 6. Appropriately-positioned ET tube and 
enteric tube. 7. Mild pulmonary edema which is most conspicuous 
in the lung apices. Bibasilar atelectasis. 8. Mildly 
heterogeneous thyroid is partially imaged. 

___ ECHO The left atrium is elongated. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is mildly 
dilated. There is severe global left ventricular hypokinesis 
(LVEF = 25 %). No masses or thrombi are seen in the left 
ventricle. There is no ventricular septal defect. The right 
ventricular cavity is dilated with depressed free wall 
contractility. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

___ CXR IMPRESSION: 1. Slight interval worsening of vascular 
congestion and mild pulmonary edema. Additionally, the heart 
appears slightly larger. 2. High position of the endotracheal 
tube, 7 cm from the carina. Advance 2-3 cm for more secure 
placement. 

___ CXR IMPRESSION: Subtle new confluent opacity in the right 
perihilar region,? related to subtle progression of CHF 
findings. Otherwise, I doubt significant interval change. 
Attention to this area on followup films is requested. 

ERCP report
___ 
Impression: Bulging of the major papilla 
Biliary dilation compatible with cholydocal cyst. 
A 5cm by ___ straight plastic biliary stent was placed 
successfully. Brisk drainage of cloudy bile and contrast from 
the biliary tree was noted endoscopically and fluoroscopically.  
 
Otherwise normal ercp to third part of the duodenum 

___ CXR IMPRESSION:  
In comparison with the study of ___, the monitoring and 
support devices are essentially unchanged. The patient has taken 
a somewhat better inspiration. Nevertheless, there is 
enlargement of the cardiac silhouette with bibasilar 
opacifications. 

MICRO:
___ 12:40 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         TYPING FOR E.COLI 0157:H7 REQUESTED BY ___ ___ 
___. 
         NEGATIVE FOR E.COLI SEROGROUP 0157:H7 BY LATEX 
AGGLUTINATION TEST. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 0354 ON ___. 

      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

Subsequent blood cultures negative

LABS ON DISCHARGE
___ 04:38AM BLOOD WBC-12.4* RBC-3.16* Hgb-8.7* Hct-27.2* 
MCV-86 MCH-27.4 MCHC-31.9 RDW-17.6* Plt ___
___ 04:38AM BLOOD ___ PTT-26.9 ___
___ 04:38AM BLOOD Glucose-94 UreaN-32* Creat-1.2 Na-144 
K-4.1 Cl-116* HCO3-17* AnGap-15
___ 04:38AM BLOOD ALT-32 AST-29 AlkPhos-164* TotBili-1.4
___ 04:38AM BLOOD Calcium-8.1* Phos-4.1 Mg-1.___ history HTN and autism who presents as a transfer from OSH 
s/p PEA arrest, septic shock on 3 pressors, and ___.

ACUTE ISSUES:
# PEA arrest: Unclear precipitant, but most likely metabolic 
derangement in the setting of diarrhea, leading to bicarbonate 
losses and consequential hypokalemia, acidosis, and hypovolemia 
driving an arrhythmia. While he had shortness of breath, hypoxia 
does not seen likely. Bedside echo did not show any evidence of 
tamponade and CXR/CT did not show evidence of tension 
pneumothorax. EKG and echo also did not support ACS. Serum tox 
does not favor a toxin ingestion.  He was maintained at strict 
normothermia for 48 hours. 

# Septic Shock: Patient presented in septic shock.  Source most 
likely cholangitis. Hypotension was refractory to volume 
resussitation and was required 3 pressors. Patient was found to 
have cholangitis and E. coli bacteremia which was treated as 
below. 

# AF with RVR: Patient presented with new onset afib with RVR. 
the pt has no history of AF. Tachycardia is likely induced by 
the use of multiple pressors, especially epinephrine. Due to 
patients hypotension he was loaded with amiodarone and 
transitioned to PO amiodarone. He then receieved dilt and then 
verapamil for additional attempts at rate control. He was in 
sinus rhythm on floor transfer. Started on coumadin 3mg on ___. 
Cardiology was consulted and recommended discontinuing 
amiodarone and verapamil and starting the patient on metoprolol 
and an ACEI. Metoprolol was started and titrated to 150mg upon 
discharge. He was not started on lisinopril 5mg as his renal 
function had just recovered. Patient should start lisinopril on 
___. 

# ___: Pt likely has some CKD at baseline, as Cr in ___ was 
1.7. Rapid rise in Cr unlikely to occur suddednly in setting of 
septic shock.  Urine microscopy with many muddy brown casts, 
unsuprising given his arrest and severe septic shock.  With 
prolonged dehydration and cardiac arrest, likely pre-renal 
azotemia developed into ATN. His uric acid level of 17.7 is very 
elevated and makes uric acid nephropathy possible and uric acid 
cystals were seen on urine microscopy. Per mother, took ___ 
and indomethacin for perhaps a few days prior to this event. 
Because of volume overload and low urine output patient was 
treated with continuous renal replacement therapy which was 
continued until ___. His renal function continued to improve, 
and he should be started on ACEI for heart failure on ___, in 
order to give his kidneys time to recover. On discharge, he 
appeared to be in post-ATN diuresis, so patient should be 
encouraged to keep hydrated with careful monitoring of I/O after 
discharge. 

# Respiratory failure: Not ARDS. Likely ___ cardiac arrest and 
acidosis. Pt initally had severe metabolic acidosis and 
permitted to hyperventilate to compensate.  Due to patients 
kidney injury and aggressive fluid resussitation. TTE showed EF 
25%, global hypokinesis, unclear chronicity. 

# Cholangitis and E. coli bacteremia:  Elevated LFTs in the 
setting of dilated CBD on imaging with choledochal cyst was 
suggestive of underlying cholangitis. ERCP findings included 
Cloudy bile, no frank pus. Ampulla was found to have with edema 
and erythema, possibly site of obstruction. ___ CBD stent placed 
in CBD, good bile flow after placement. Patient improved rapidly 
after ERCP and should continue ceftriaxone and flagyl until 
___. He will need surgery and ERCP follow-up for cyst removal 
and stent removal. 
 
# Thrombocytopenia: Unlikely a consumptive process as fibrinogen 
elevated and INR only midly elevated, making DIC unlikely. Heme 
was consulted to rule out TTP in setting of liver and renal 
dysfunction. Ehrlichia/anaplasmosis was negative. 
Thrombocytopenia was likely due to sepsis, and recovered quickly 
after source control for cholangitis. 

# Hyperglycemia: Pt had low FSBG on presentation at OSH and 
received 1 amp. He then became hyperglycemic in setting of 
sepsis and required insulin drip during that time.

TRANSITIONAL ISSUES:
- Please start lisinopril 5mg on ___ if kidney function 
stable. Patient needs ACEI for likely acute heart failure, 
however needs a week prior to starting due to ___. 
-Patient in post-ATN diuresis. Encourage PO intake, monitor I/O 
and blood pressures to make sure he is not dehydrated. 
- Patient started on warfarin on ___ at 3mg due to concurrent 
use of flagyl. It was increased to 5mg on ___. Please monitor 
INR.
-Scheduled for appointments with surgery, ERCP, urology (concern 
for renal mass), and cardiology. 
- Does not need renal follow-up, but please schedule if kidney 
function worse or if metabolic acidosis does not resolve.
-Per cardiology, will continue warfarin, metoprolol, and 
lisinopril until his follow-up appointment. At that time, he 
will need repeat echo to assess LV function and may need an 
event monitor to determine whether he is still having episodes 
of A-fib.
- Recent CT scan showed a "3.5 cm heterogeneous, potentially 
enhancing left renal lesion, concerning for neoplasm". Warrants 
further evaluation by Urology once he recovers 
- Outpatient surgery f/u for choledochal cyst resection 
- ERCP f/u to take out stent 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Colchicine 0.6-1.2 mg PO BID:PRN pain 
4. Diazepam 5 mg PO QHS:PRN insomnia 
5. Sertraline 50 mg PO DAILY:PRN anxiety 
6. Indomethacin 25 mg PO TID:PRN pain 

 
Discharge Medications:
1. CeftriaXONE 2 gm IV Q24H 
2. Colchicine 0.6-1.2 mg PO BID:PRN pain 
3. Diazepam 5 mg PO QHS:PRN insomnia 
4. Pantoprazole 40 mg PO Q24H 
5. Sertraline 50 mg PO DAILY:PRN anxiety 
6. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
7. Warfarin 5 mg PO DAILY16 
8. Metoprolol Succinate XL 200 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Septic shock due to cholangitis

Secondary diagnoses:
Paroxysmal atrial fibrillation
___ on CKD
Systolic heart failure
Thrombocytopenia
Anemia
Respiratory failure

 
Discharge Condition:
Mental Status: patient attentive and able to answer limited 
questions
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted 
with weakness and diarrhea and were found to have an infection 
in your abdomen. You also experienced an event where your heart 
stopped and you were very ill afterwards. Your symptoms 
gradually improved with antibiotics and a procedure to place a 
stent in the duct your gallbladder drains into, and we gave you 
medication to control your heart rate. Our cardiology team saw 
you and started you on several new medications to protect your 
heart. You will need to go to rehab to regain your strength and 
will need to see several specialists, listed below, after you 
leave the hospital. Please follow-up with your appointments as 
listed below.

Please note that your CT scan showed a mass in your kidney which 
should be evaluated by Urology as an outpatient, as there is 
concern this could be a cancer. You will also need surgery to 
remove the cyst around your gallbladder to prevent future events 
like this from occurring. You also need to follow-up with 
cardiology to reassess your heart function and adjust your 
medications.

Take care, and we wish you the best.

Sincerely,
Your ___ medicine team
 
Followup Instructions:
___